US07335658B2
6-[4-(2,6-DIFLUOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2,6-difluorobenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (44% yield). 1H NMR (400 MHz, CDCl3) δ 8.07, 8.07-7.99, 7.44-7.38, 7.02-6.96, 4.0-3.99, 3.86-3.83, 3.58-3.50, 3.39-3.38, 1.52, 1.15-1.10, 0.77-0.74, 0.49-0.45, 0.11-0.08.

reactant | 2,6-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,6-DIFLUOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1F)F)=O | C21H23F2N5O2
